Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine 
 
Attending: ___.
 
Chief Complaint:
Left Knee Pain
 
Major Surgical or Invasive Procedure:
Curretage and Cement of Left Proximal Tibia Chondrosarcoma

 
History of Present Illness:
Patient had left knee pain for many years told she had a cyst.  
Followd up with Dr. ___ had ___ performed of left 
proximal ibia lesion found to be a chondrosarcoma.  Patient then 
scheduled for surgery.
 
Past Medical History:
Smoker.
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, AOx3
Resp: breathing unlabored
CV: RRR
LLE: incision clean and dry and intact, able to ankle df, ankle 
pf, ___ intact, silt to s/s/sp/dp/t nerves.
 
Pertinent Results:
___ 06:35AM BLOOD WBC-15.2* RBC-3.82* Hgb-11.7* Hct-36.9 
MCV-97 MCH-30.6 MCHC-31.7 RDW-14.2 Plt ___
___ 06:35AM BLOOD Glucose-96 UreaN-8 Creat-0.6 Na-139 K-4.3 
Cl-104 HCO3-27 AnGap-12
 
Brief Hospital Course:
Patient admitted post operatively from a curretage and 
cementation of left proximal tibia chondrosarcoma.  She recevied 
a block from the pain team but on POD #1 when it wore off had 
extreme pain and had a rescue block performed.  Subsequently on 
POD#2 after pain team recommendations were instituted, patient 
much more comfortable when second block wore off. Throughout her 
sta her vitals were stable and she was afebrile.  She 
subseuqently was cleared for home by ___ without any need for 
services.  
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H Pain 
2. Aspirin 81 mg PO DAILY Duration: 2 Weeks 
3. BuPROPion (Sustained Release) 150 mg PO BID Smoking 
4. Morphine SR (MS ___ 15 mg PO Q12H 
RX *morphine [MS ___ 15 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*30 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (___) hours 
Disp #*120 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chondrosarcoma of Left Tibia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity: Partial Weight Bearing on Left Lower Extremity

Dressing/Wound Care: Change dressing daily for first 7 days, 
then can levae open to air if there is no drainge. For first 7 
days please cover with water tight dressing if you are to 
shower.

Medications: Take as directed.  Wean yourself off of the 
oxycodone and ms-contin.  The MS ___ should be taken for 
approximatel 10 days, the oxycodone ___ may need longer and ___ 
it for breakthrough pain.  Continue taking the ASA 81 mg daily 
for two weeks.
 
Followup Instructions:
___